US06525202B2
8-(2-Nitro-phenyl)-1,4-dioxa-8-aza-spiro[4.5]decane
A solution of 2-fluoronitrobenzene (10 g, 70.9 mmol) and 1,4-dioxa-8-aza-spiro[4.5]decane (10 g, 69.8 mmol) in pyridine (70 mL) was heated at 70° C. for 1 day, diluted with water, and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried with sodium sulfate, and filtered. The solvent was removed under reduced pressure to give the title compound (15 g) as a red oil; 1H NMR (300 MHz, CDCl3) δ 1.88 (t, J=5.6 Hz, 4H), 3.16 (t, J=5.6 Hz, 4H), 4.00 (s, 4H), 7.03 (dd, J=8.2, 8.2 Hz, 2H), 7.17 (d, J=8.2 Hz, 2H), 7.40 (ddd, J=8.2, 8.2, 1.7 Hz, 1H), 7.77 (dd, J=8.4, 1.7Hz, 1H); MS (ES) m/z: 265.1 (MH+); HRMS Calcd. for C13H17N2O4 (MH+): 265.1188. Found: 265.1164.

reactant | 2-fluoronitrobenzene | 70.9 mmol, 10 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | 69.8 mmol, 10 g | O1CCOC12CCNCC2 | C7H13NO2
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 8-(2-Nitro-phenyl)-1,4-dioxa-8-aza-spiro[4.5]decane | 15 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCC2(OCCO2)CC1 | C13H16N2O4
